US09260410B2
To a solution of tert-butyl 4-(2-hydroxyethyl)pyridin-2-ylcarbamate (6.0 g, 25 mmol) in THF (70 mL) at 0° C. was added sodium hydride (2.52 g, 60% wt dispersion in mineral oil, 63.0 mmol) and the bright yellow suspension stirred for 20 min and then treated with 1-fluoro-4-nitronaphthalene (4.81 g, 25.2 mmol) in a single portion. After stirring at RT for 2 hr the mixture was treated with water (100 mL) followed by EtOAc (100 mL) and the solid which formed at the interface was collected by filtration. The organic phase was separated and was washed with saturated aq. NaHCO3 and brine and was then dried and evaporated in vacuo to furnish an orange solid. The two solids were combined and triturated with MeOH (50 mL) to provide tert-butyl 4-(2-(4-nitronaphthalen-1-yloxy)ethyl)pyridin-2-ylcarbamate, as a yellow solid (11.0 g, 98%): m/z 410 (M+H)+ (ES+).

reactant | tert-butyl 4-(2-hydroxyethyl)pyridin-2-ylcarbamate | 25 mmol, 6.0 g | OCCC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C12H18N2O3
reactant | sodium hydride | 63.0 mmol, 2.52 g | [H-].[Na+]
reactant | 1-fluoro-4-nitronaphthalene | 25.2 mmol, 4.81 g | FC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6FNO2
reactant | water | 100 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(2-(4-nitronaphthalen-1-yloxy)ethyl)pyridin-2-ylcarbamate | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)OCCC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C22H23N3O5
